US05929072
A solution of 3,4-dihydro-7-fluoro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide(1.48 g, 6.07 mmol) in dry DMF (15 ml) was added via a cannula to a flask containing sodium hydride (175 mg, 7.28 mmol) and DMF (2 ml) in Argon atmosphere, and stirred for 2 hours at room temperature when 1-bromo-2-chloroethane (7.28 mmol, 605 μl) was added dropwise. The mixture was stirred overnight at room temperature and water (75 ml) added. The product was extracted with EtOAc (3×50 ml) and the combined organic extracts were washed with water (1×100 ml) and then brine (1×100 ml), dried over sodium sulphate and solvent evaporated at reduced pressure. The residue was purified by flash chromatography on silica gel (EtOAc:Hexanes 1:4) affording pure 1-(2-chloroethyl)-3,4-dihydro-7-fluoro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide.

reactant | 3,4-dihydro-7-fluoro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | 6.07 mmol, 1.48 g | FC1=CC2=C(CN(S(N2)(=O)=O)C(C)C)C=C1 | C10H13FN2O2S
reactant | sodium hydride | 7.28 mmol, 175 mg | [H-].[Na+]
reactant | 1-bromo-2-chloroethane | 7.28 mmol, 605 μl | BrCCCl | C2H4BrCl
reactant | water | 75 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-(2-chloroethyl)-3,4-dihydro-7-fluoro-3-(1-methylethyl)-1H-2,1,3-benzothiadiazine-2,2-dioxide | ClCCN1S(N(CC2=C1C=C(C=C2)F)C(C)C)(=O)=O | C12H16ClFN2O2S
